US07687664B2
53 mg of 3-[3-(2-hydroxyethyl)-4-methoxyphenyl]benzoic acid, 45 mg of 2,4-dichlorophenol and 73 mg of triphenyl phosphine were dissolved in 2 ml of THF, and 73 ml of diisopropyl azodicarboxylate was added thereto. The mixture was stirred overnight at room temperature, and the solvent was evaporated. The residue was purified by silica gel column chromatography to give 84 mg of methyl-3-{3-[2-(2,4-dichlorophenoxy)ethyl]-4-methoxyphenyl}benzoate. This product was dissolved in 2 ml of of ethanol and 0.5 ml of 5N sodium hydroxide and then heated. The reaction mixture was neutralized with 1 N hydrochloric acid and extracted with ethyl acetate. The solvent was evaporated to give 42 mg of the title compound.

reactant | 3-[3-(2-hydroxyethyl)-4-methoxyphenyl]benzoic acid | 53 mg | OCCC=1C=C(C=CC1OC)C=1C=C(C(=O)O)C=CC1 | C16H16O4
reactant | 2,4-dichlorophenol | 45 mg | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | triphenyl phosphine | 73 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 73 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | methyl-3-{3-[2-(2,4-dichlorophenoxy)ethyl]-4-methoxyphenyl}benzoate | 84 mg | COC(C1=CC(=CC=C1)C1=CC(=C(C=C1)OC)CCOC1=C(C=C(C=C1)Cl)Cl)=O | C23H20Cl2O4
